I1 0 N001 PULSE(0 {I_heater} 200n 0.01n 0.01n {pulse_length})
I2 0 out PWL(0 0 0.3n {I_drain} 20n {I_drain})
R1 out 0 50
X§U1 N001 0 out 0 NC_01 NC_02 NC_03 hTron_behav
.param I_drain 1000u
.tran 0 250n 0 10p
.param I_heater 100u
.param pulse_length=20n
.options reltol 1e-6
.lib hTron_behavioral.lib
.backanno
.end
